US05455252
2-bromo-4-methylaniline and 3-chloro-4-fluorobenzene boronic acid were combined to form 2-(3-chloro-4-fluorophenyl)-4-methylaniline,

reactant | 2-bromo-4-methylaniline | BrC1=C(N)C=CC(=C1)C | C7H8BrN
reactant | 3-chloro-4-fluorobenzene boronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 2-(3-chloro-4-fluorophenyl)-4-methylaniline | ClC=1C=C(C=CC1F)C1=C(N)C=CC(=C1)C | C13H11ClFN
